* C:\Users\PRANAV ARYA\Desktop\labsub\Draft6.asc
A3 0 N001 N002 0 0 N004 0 0 OR Vhigh=5,Vlow=0
A4 0 A 0 A 0 N001 0 0 OR Vhigh=5,Vlow=0
A5 0 N003 0 N003 0 N002 0 0 OR Vhigh=5,Vlow=0
A8 0 N007 N008 0 0 N006 0 0 OR Vhigh=5,Vlow=0
A9 0 B 0 B 0 N007 0 0 OR Vhigh=5,Vlow=0
A10 0 S 0 S 0 N008 0 0 OR Vhigh=5,Vlow=0
A1 0 S 0 S 0 0 N003 0 OR Vhigh=5,Vlow=0
A2 0 N004 0 N006 0 N005 0 0 OR Vhigh=5,Vlow=0
A6 0 N005 0 N005 0 out 0 0 OR Vhigh=5,Vlow=0
V1 B 0 PULSE(0 5 0 5ns 5ns 20 40)
V2 A 0 PULSE(0 5 0 5ns 5ns 10 20)
V3 S 0 PULSE(0 5 0 5ns 5ns 40 80)
.tran 80
.backanno
.end
